US06166015
Solid 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (14 mg, 0.08 mmol, 1.5 equiv.) was added to a solution of 3-(RS)-aminomethyl-1-(2,3-dichlorobenzyl)-pyrrolidine (13 mg, 0.05 mmol), 2-[5-(3-methoxyphenyl)pyrimidin-2-ylamino]acetic acid (16 mg, 0.06 mmol, 1.2 equiv.), 1-hydroxybenzotriazole hydrate (10 mg, 0.08 mmol, 1.5 equiv.) and diisopropylethylamine (22 mL, 0.13 mmol, 2.5 equiv.) in dimethyl formamide (0.5 mL). The reaction mixture was shaken at room temperature overnight. The reaction mixture was quenched with methanol (0.3 mL), then purified directly by reverse phase preparative HPLC to give N-[1-(2,3-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-[5-(4-methoxyphenyl)pyrimidin-2-ylamino]acetamide HCl salt (11 mg).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.08 mmol, 14 mg, 1.5 equiv. | Cl.CN(CCCN=C=NCC)C
reactant | 3-(RS)-aminomethyl-1-(2,3-dichlorobenzyl)-pyrrolidine | 0.05 mmol, 13 mg | NCC1CN(CC1)CC1=C(C(=CC=C1)Cl)Cl | C12H16Cl2N2
reactant | 2-[5-(3-methoxyphenyl)pyrimidin-2-ylamino]acetic acid | 0.06 mmol, 16 mg, 1.2 equiv. | COC=1C=C(C=CC1)C=1C=NC(=NC1)NCC(=O)O | C13H13N3O3
reactant | 1-hydroxybenzotriazole hydrate | 0.08 mmol, 10 mg, 1.5 equiv. | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.13 mmol, 22 mL, 2.5 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-[1-(2,3-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-2-[5-(4-methoxyphenyl)pyrimidin-2-ylamino]acetamide HCl salt | 11 mg | Cl.ClC1=C(CN2CC(CC2)CNC(CNC2=NC=C(C=N2)C2=CC=C(C=C2)OC)=O)C=CC=C1Cl | InChI=1S/C25H27Cl2N5O2.ClH/c1-34-21-7-5-18(6-8-21)20-12-29-25(30-13-20)31-14-23(33)28-11-17-9-10-32(15-17)16-19-3-2-4-22(26)24(19)27;/h2-8,12-13,17H,9-11,14-16H2,1H3,(H,28,33)(H,29,30,31);1H
